US05914328
7a. 1-t-butyloxycarbonyl-2-(S)-azetidinecarboxylic acid
To an ice cooled solution of 2-(S)-azetidinecarboxylic acid (10.15 g, 100.39 mmol) in 1, 4 dioxane:water (300 mL, 1:1) was added di-tert-butyl dicarbonate (28.48 g, 130.51 mmol), followed by 4methylmorpholine (11.68 g, 115.45 mmol). The reaction mixture continued to stir 18 hours, gradually warming to room temperature. The reaction mixture was then poured into a ice cooled saturated solution of sodium bicarbonate (250 mL) and washed with ethyl acetate (3×250 ml). The aqueous was then acidified with potassium hydrogen sulfate (pH=1) and the product extracted with ethyl acetate (3×300 ml). These extracts were then dried (Na2SO4), filtered and concentrated in vacuo. The resulting semisolid was carried forward without further purification. MS (DCI/NH3) m/e 202 (M+H)+, 219 (M+NH4)+. 1H NMR (CDCl3,300 MHz) δ: 10.0 (br s, 1H), 4.81-4.76 (t, J=15Hz, 1H), 3.99-3.83 (m, 2H), 2.62-2.38 (m, 2H), 1.48 (s, 9H).

reactant | 2-(S)-azetidinecarboxylic acid | 100.39 mmol, 10.15 g | N1[C@@H](CC1)C(=O)O | C4H7NO2
reactant | di-tert-butyl dicarbonate | 130.51 mmol, 28.48 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4methylmorpholine | 115.45 mmol, 11.68 g | CN1CCOCC1 | C5H11NO
reactant | sodium bicarbonate | 250 mL | C([O-])(O)=O.[Na+]
solvent | 1, 4 dioxane | O1CCOCC1 | C4H8O2
solvent | water | 300 mL | O | H2O
product | 1-t-butyloxycarbonyl-2-(S)-azetidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(=O)O | C9H15NO4
